US04882340
A mixture of methyl 5-chloro-3-formyl-2-hydroxybenzoate (73.2 g), ethylene glycol (350 ml) and trimethylchlorosilane (129 ml) is stirred at room temperature for 2 hours. The reaction mixture is poured into a mixture of an aqueous saturated sodium bicarbonate solution and trimethylamine, and the mixture is extracted with ethyl acetate. The extracted is washed with water, dried and concentrated to remove solvent, whereby methyl 5-chloro-3-(1,3-dioxolan-2-yl)-2-hydroxybenzoate (86 g) is obtained as yellow powder.

reactant | methyl 5-chloro-3-formyl-2-hydroxybenzoate | 73.2 g | ClC=1C=C(C(=C(C(=O)OC)C1)O)C=O | C9H7ClO4
reactant | trimethylchlorosilane | 129 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | trimethylamine | CN(C)C | C3H9N
solvent | ethylene glycol | 350 ml | C(CO)O | C2H6O2
product | methyl 5-chloro-3-(1,3-dioxolan-2-yl)-2-hydroxybenzoate | 86 g | ClC=1C=C(C(=C(C(=O)OC)C1)O)C1OCCO1 | C11H11ClO5
